US06489344B1
2-Chloro-6-methoxypyridine (5.0 g) was heated with ethylenediamine (30 ml) at 120° C. overnight. The excess ethylenediamine was removed by rotary evaporation. The residue was dissolved in a small volume of 2.5 M aqueous sodium hydroxide and extracted thoroughly with dichloromethane. The combined organic layers were washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated in vacuo to give (2-aminoethyl)(6-methoxy(2-pyridyl)amine as an orange syrup. The amine (2.58 g) was treated with benzotriazole carboxamidinium 4-methylbenzenesulfonate (0.86 g) and DIEA (0.45 mmol) in acetonitrile (6 ml) and stirred overnight at room temperature. Trituration with ether gave the guanidine, amino-{2-[(6-methoxy(2-pyridyl))amino]ethyl}carboxamidinium 4-methylbenzenesulfonate, as an oil. The oily guanidine (200 mg) was reacted with 100 mg of resin according to Resin Method C (90° C., overnight) to give the title compound.

reactant | 2-Chloro-6-methoxypyridine | 5.0 g | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | ethylenediamine | 30 ml | C(CN)N | C2H8N2
product | 6-methoxy(2-pyridyl)amine | COC1=CC=CC(=N1)N | C6H8N2O
